US07435823B2
A resealable tube was charged with methyl 6-hydroxy-4-methyl-1-naphthoate (0.087 g, 0.402 mmol), cesium carbonate (0.393 g, 1.21 mmol), and DMF (2 mL). The system was flushed with argon, the tube was sealed, and the mixture stirred at RT for 15 min. 4-Chloro-6,7-dimethoxyquinoline (0.090 g, 0.40 mmol) was added, and the system was again flushed with argon. The tube was sealed and the mixture stirred at 100° C. for 18 h. Additional cesium carbonate (0.393 g, 1.21 mmol) was added and the system was again flushed with argon. The tube was sealed and the mixture stirred at 100° C. for 16 h. The mixture was partitioned between CH2Cl2 and water. The aqueous phase was separated and extracted with CH2Cl2. The aqueous phase was acidified to pH 5-6 with 6 N HCl (aq). The resulting precipitate was filtered and washed with water. The filter cake was dried under vacuum to afford 6-(6,7-dimethoxyquinolin-4-yloxy)-4-methyl-1-naphthoic acid as a light brown solid. MS (ESI, pos. ion) m/z: 390.1 (M+H). Mass Calc'd for C23H19NO5: 389.

reactant | methyl 6-hydroxy-4-methyl-1-naphthoate | 0.402 mmol, 0.087 g | OC=1C=C2C(=CC=C(C2=CC1)C(=O)OC)C | C13H12O3
reactant | cesium carbonate | 1.21 mmol, 0.393 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Chloro-6,7-dimethoxyquinoline | 0.40 mmol, 0.090 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | cesium carbonate | 1.21 mmol, 0.393 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(6,7-dimethoxyquinolin-4-yloxy)-4-methyl-1-naphthoic acid | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C(=CC=C(C2=CC1)C(=O)O)C | C23H19NO5
